US04288437
(E)-2-[(Amino)-(2-nitrophenyl)methylene]-benzo[b]thiophen-3(2H)-one
Prepared as in Example 1 from 2-(2-nitrobenzoyl)-benzo[b]-thiophen-3-ol, phosphorus(V) chloride and concentrated aqueous ammonia with a yield of 21% of theory. M.p. 185°-186° C. (ethyl acetate).

reactant | 2-(2-nitrobenzoyl)-benzo[b]-thiophen-3-ol | [N+](=O)([O-])C1=C(C(=O)C2=C(C3=C(S2)C=CC=C3)O)C=CC=C1 | C15H9NO4S
reactant | phosphorus(V) chloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | ammonia | N | H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (E)-2-[(Amino)-(2-nitrophenyl)methylene]-benzo[b]thiophen-3(2H)-one | yield of 21% | N\C(=C\1/C(C2=C(S1)C=CC=C2)=O)\C2=C(C=CC=C2)[N+](=O)[O-] | C15H10N2O3S
